Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Jaw/neck swelling
 
Major Surgical or Invasive Procedure:
Incision and drainage of submandibular and sublingual abscess

 
History of Present Illness:
___ y/o M w/ h/o bicuspid AV w/ AAA (4.9cm ___ ___, asthma,
cervical spinal disease s/p fusion, and mildly elevated Cr who 
is
transferred from ___ for ___ management of ___ facial
abscess. 

Pt first developed tooth pain two weeks ago, which was initially
evaluated by a dentist and thought to be be ___. 8
days ago he ___ with worsening pain; his pain was
diagnosed as an infected ___ molar (#31) and the molar was
removed by pt's oral surgeon. ___, pt was initiated on
penicillin, which "did nothing," then changed to clindamycin
300mg Q8H for 6 days postop, then 2 days PTA again changed to
300mg Q6H by pt's oral surgeon. Pt did not miss any ___ doses. 
CT
head on ___ reportedly showed swelling and inflammation but no
abscess. For past two days, pt noticed worsening swelling under
right tongue/below right jaw extending to right upper neck. He
endorsed mild chills but no known fever. He presented to ___ ___
___ on ___ with subjective difficulty swallowing and
handling of secretions. He was referred to ___ where he was 
given
decadron, zofran, dilaudid, and unasyn 3g. CT face showed a 3.5 
x
1.4 cm collection extending from the area of the right molar
extraction along the lingual aspect of the right mandibular
ramus, concerning for Ludwig's angina. He was transferred to 
___,
where he was evaluated by ENT who unsuccessfully attempted
bedside drainage. Subsequently transferred to ___ for ___
evaluation. Throughout this he has had no difficulty breathing,
no stridor, no desaturations, no severe trismus, and has been
handling his own secretions. 

Pt is now s/p I&D of R sublingual and submandibular of space
infection, with 15cc purulent drainage, by ___ OMFS. He has a
sublingual ___ ___ place.

On arrival to the floor, patient reports some increased swelling
of his tongue, but no difficulty breathing. He denies nausea,
vomiting.
 
Past Medical History:
- stable aortic aneurysm (4.9cm ___ CTA)
- bicuspid aortic valve
- asthma
- HTN
- GERD
- appendectomy
- cervical disc disease s/p cervical spine fusion ___
- chronic renal insufficiency with an elevated creatinine
- left ulnar nerve entrapment
- status post right knee arthroscopy for torn meniscsus
- status post bilateral shoulder arthroscopy
 
Social History:
___
Family History:
Mother and father have diabetes
 
Physical Exam:
ADMISSION EXAM:
==============
VS: T 97.1 BP 133/83 HR 91 RR 20 O2 97% 3L NC
GENERAL: Well developed, well appearing, NAD, lying comfortably
___ bed 
HEENT: Erythema, edema and some firmness palpable below R
mandible extending to R upper neck. ___ ___ place ___ surgical
incision
NECK: as per HEENT above
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender ___ all quadrants, no
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE EXAM:
==============
Vitals: 98  145/81  94  20  97% Ra
General: NAD, lying comfortably ___ bed 
HEENT: AT/NC, moderate soft swelling ___ right jaw and upper 
right
neck with induration; EOMI grossly, PERRAL; mouth only capable 
of
opening 4cm; no LAD; neck movement limited by swelling; ___
___ place ___ surgical incision draining serosangious fluid 
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
Lungs: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
___
RA 
Abd: Soft, NT, ND, BS+
Ext: no cyanosis, clubbing, or edema; pulses 2+ b/l DP and
radials
Neuro: A&Ox3, moving all 4 extremities with purpose     

 
Pertinent Results:
ADMISSION LABS:
==============
___ 03:06AM BLOOD ___ 
___ Plt ___
___ 03:06AM BLOOD ___ 
___ Im ___ 
___
___ 03:06AM BLOOD ___ ___
___ 03:06AM BLOOD ___ 
___

DISCHARGE LABS:
==============
___ 06:55AM BLOOD ___ 
___ Plt ___
___ 06:55AM BLOOD ___ 
___
___ 06:55AM BLOOD ___

MICROBIOLOGY:
=============
___ 3:06 am BLOOD CULTURE #1

   Blood Culture, Routine (Pending): 

___ 3:06 am BLOOD CULTURE #2

   Blood Culture, Routine (Pending): 

___ 2:30 pm FLUID,OTHER      RIGHT SUBMANDIBULAR FLUID. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Preliminary): 
      GRAM POSITIVE COCCUS(COCCI).    SPARSE GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

OTHERS:
=======
___ 09:50AM BLOOD ___ cTropnT-<0.01
___ 09:50AM BLOOD CK(CPK)-___
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a past medical history of 
bicuspid AV, AAA (4.9cm ___ ___, asthma, and cervical spinal 
disease s/p fusion transferred from ___ for 
surgical management of an identified 3.5x1.5 cm 
submandibular/sublingual abscess on CT imaging. He was evaluate 
by our oral maxillofacial surgical service who recommended 
incision and drainage. I&D was conducted by approaching the 
absces from the lateral right neck towards the inferior medial 
aspect of the submandibular/sublingual space. Roughly 15cc of 
purulent material was extracted, gram stain and cultures sent on 
this material, the space thoroughly flushed, and a ___ drain 
placed. Unasyn 1.5g q6h was started. He was admitted to medicine 
for monitoring of the ___ drain output, monitor for 
complications such postoperative swelling and airway compromise, 
and control pain. While some moderate swelling was noted after 
surgery, he never experience air compromise or significant 
swallowing difficulties. He remained hemodynamically stable and 
afebrile. Pain was well controlled with 1g Tylenol q8h. The 
___ drain was removed ___ and he was discharged on 
Augmentin 875mg daily for a 7 day course, PeriDex BID rinse, and 
close OMFS follow up. 

=======================
TRANSITIONAL ISSUES:
=======================
MEDICATIONS:
- New Meds: Augmentin, Peridex
- Stopped Meds: None
- Changed Meds: None

___
- Follow up: Oral Maxillofacial Surgery, PCP
- ___ required after discharge: None
- Incidental findings: None

OTHER ISSUES:
- Hemoglobin prior to discharge: 14
- Cr at discharge: 0.9
- Antibiotic course at discharge: Augmentin 875mg daily x 7 days

# CONTACT: ___ (wife) ___
# CODE: Full Code (confirmed)

ACUTE PROBLEMS
==============
#Submandibular/Sublingual Abscess:
Incision and drainage conducted on ___ with 15cc purulent 
material aspirated. A ___ drain was placed and was only 
observed draining serosangious fluid. He experienced moderate 
expected postoperative swelling of right jaw and neck without 
airway or swallowing compromise. The ___ drain was pulled 
and incision closed. The abscess gram stain showed Gram+ cocci 
___ pairs. The aerobic culture grew no organisms with the 
anaerobic culture pending upon discharge. Blood cultures had 
grown nothing by discharge but were still pending. He was 
treated with at least 2 full days of Unasyn 3g IV q6h and 
transition to Augmentin 875mg po daily on discharge. Follow up 
with OM surgery to be ___, OMFS will confirm appointment 
with family. 

#Biscupid AV
#AAA:
The last measure we are aware of was 4.9cm ___ ___. However, he 
is followed closely by CT surgery. He has adequate follow up for 
management of his AAA.

CHRONIC PROBLEMS
=================
#HTN: 
His SBPs during this admission were ___ the 140's with 
continuation of his home Carvedilol.

#Asthma: 
He has not needed rescue albuterol until last week when swelling 
got worse. Otherwise, asthma been well under control and no 
issues were observed while inpatient. We continued his home 
Symbicort and ProAir prn. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 3.25 mg PO BID 
2. Symbicort ___ mcg/actuation 
inhalation BID 
3. Albuterol Inhaler Dose is Unknown  IH Q6H:PRN asthma flar 

 
Discharge Medications:
1.  ___ Acid ___ mg PO Q24H Duration: 7 Doses 

RX ___ clavulanate 875 ___ mg 1 tablet by mouth 
twice a day Disp #*14 Tablet Refills:*0 
2.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate 0.12 % rinse twice daily Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q6H:PRN asthma flar  
4.  Carvedilol 3.25 mg PO BID  
5.  Symbicort ___ mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
=================
Submandibular and sublingual abscess

SECONDARY DIAGNOSIS:
====================
Abdominal aortic aneurysm 
Bicuspid aortic valve

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to ___ due to right facial swelling and pain days 
after a tooth extraction. Please see more details listed below 
about what happened while you were ___ the hospital and your 
instructions for what to do after leaving the hospital.

It was a pleasure participating ___ your care. We wish you the 
best!

Sincerely,
Your ___ Care Team

===================================
WHAT HAPPENED AT THE HOSPITAL? 
===================================
-  Based on imaging of your right jaw and neck from an outside 
hospital, recommendations were made for surgical drainage of the 
abscess.
-  You were put to sleep as the oral surgeons access the abscess 
through your right neck, thoroughly drained out the abscess 
material, flushed the area clean, and left a drain ___ place.
-  After you woke up, you were admitted to the medicine service 
to monitor for complications and control your pain/symptoms.
- At discharge, we were confident that drainage of the abscess 
and antibiotic therapy were successful. 

==================================================
WHAT NEEDS TO HAPPEN WHEN YOU LEAVE THE HOSPITAL? 
==================================================
- Monitor for increasing swelling, fever, chills, uncontrolled 
pain, difficulty breathing, or difficulty swallow; if observed 
please seek emergency care.
- Follow up with your primary doctor.
- Follow up with your Oral Surgeon.
- Please complete the entire prescription of antibiotic.

Wound care: 
-Keep gauze dressing over the site 
-PeriDex twice daily rinse out of mouth 
-Okay to shower, but do not scrub surgery site 

 
Followup Instructions:
___